US07947691B2
1-Biphenyl-2-ylmethyl-3-hydroxy-8-nitro-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-Dimethoxy-benzyloxy)-8-nitro-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione was alkylated with 2-phenylbenzyl bromide and subsequently deprotected to provide the title compound as a light yellow solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.53 (s, 2H); 7.20-7.57 (m, 9H); 8.29 (dd, J1=9 Hz, J2=2 Hz, 1H); 8.36 (d, J=2 Hz, 1H); 8.40 (d, J=9 Hz, 1H); Ret. time=3.14 min., m/z=444.0.

reactant | 3-(2,4-Dimethoxy-benzyloxy)-8-nitro-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)SC2=C3C=C(C=C2)[N+](=O)[O-])=O)C=CC(=C1)OC | C19H15N3O7S
reactant | 2-phenylbenzyl bromide | C1(=CC=CC=C1)C1=C(CBr)C=CC=C1 | C13H11Br
product | 1-Biphenyl-2-ylmethyl-3-hydroxy-8-nitro-1H-benzo[4,5]thieno[3,2-d]pyrimidine-2,4-dione | C1(=C(C=CC=C1)CN1C(N(C(C2=C1C1=C(S2)C=CC(=C1)[N+](=O)[O-])=O)O)=O)C1=CC=CC=C1 | C23H15N3O5S
